US04091108
Phenoxathiin-2-carboxylic acid (0.61g) was dissolved in refluxing absolute ethanol (40 ml) and 30% w/v hydrogen peroxide solution (1.50 ml) added. Reflux was maintained for 2 hours, more 30% w/v hydrogen peroxide solution (1.00 ml.) added, and reflux continued for 17 hours. The solution was evaporated to low volume, and the product crystallised out. The solid was filtered, washed and dried to give 2-carboxyphenoxathiin-10-oxide m.p. 223° C. Recrystallisation from absolute ethanol raised the melting point to 237° C.

reactant | Phenoxathiin-2-carboxylic acid | 0.61g | C1=C(C=CC=2OC3=CC=CC=C3SC12)C(=O)O | C13H8O3S
reactant | hydrogen peroxide | 1.50 ml | OO | H2O2
reactant | hydrogen peroxide | 1.00 ml | OO | H2O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-carboxyphenoxathiin-10-oxide | C(=O)(O)C1=CC=2S(C3=CC=CC=C3OC2C=C1)=O | C13H8O4S
